US08686007B2
Preparation of 3-[(5-{[(2S)-2-(4-Fluorophenyl)propyl]amino}-1,2,4-thiadiazol-3-yl)methyl]phenol
To a solution of (S)—N-(2-(4-fluorophenyl)propyl)-3-(3-methoxybenzyl)-1,2,4-thiadiazol-5-amine (80.0 mg, 0.22 mmol, 1.0 equiv) in dry DCM (5 mL) was added BBr3 (2.0 mL, 21 mmol, 1.0 equiv) by syringe. After stirring for 15 min, the reaction mixture was quenched by the addition of MeOH and the resulting mixture was concentrated in vacuo. The residue was dissolved in EtOAc and washed with sat'd. aq. NaHCO3 and brine. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. Purification by silica gel (25% EtOAc/Hexanes) provided the title compound (24 mg, 32%). m/z=344.2 [M+H]+.

reactant | (S)—N-(2-(4-fluorophenyl)propyl)-3-(3-methoxybenzyl)-1,2,4-thiadiazol-5-amine | 0.22 mmol, 80.0 mg, 1.0 equiv | FC1=CC=C(C=C1)[C@@H](CNC1=NC(=NS1)CC1=CC(=CC=C1)OC)C | C19H20FN3OS
reactant | BBr3 | 21 mmol, 2.0 mL, 1.0 equiv | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-[(5-{[(2S)-2-(4-Fluorophenyl)propyl]amino}-1,2,4-thiadiazol-3-yl)methyl]phenol | 24 mg, 32% | FC1=CC=C(C=C1)[C@@H](CNC1=NC(=NS1)CC=1C=C(C=CC1)O)C | C18H18FN3OS
